US07396487B2
The Synthesis of 3,4-difluoro-4′-(2-methoxyethoxy)biphenyl (Compound 3 in Table 1)
A mixture of 3,4-difluoro-1,1′-biphenyl-4-ol (0.50 g, 2.43×10−3 mol) of 1-bromo-2-methoxyethane (0.34 g, 2.43×10−3 mol), potassium iodide (0.04 g, 2.43×10−4 mol), potassium carbonate (1.34 g, 9.72×10−3 mol) and butanone (20 cm3) was then heated overnight under reflux. The mixture was filtered to remove inorganic material and the filtrate evaporated down under reduced pressure. The crude product was purified by column chromatography on silica gel using dichloromethane as the eluent and recrystallisation from hexane to give the pure (GC: 100%) desired product (0.15 g 23%).

reactant | 3,4-difluoro-1,1′-biphenyl-4-ol | 2.43×10−3 mol, 0.50 g | FC1C=C(C=CC1(O)F)C1=CC=CC=C1 | C12H10F2O
reactant | 1-bromo-2-methoxyethane | 2.43×10−3 mol, 0.34 g | BrCCOC | C3H7BrO
reactant | potassium iodide | 2.43×10−4 mol, 0.04 g | [I-].[K+]
reactant | potassium carbonate | 9.72×10−3 mol, 1.34 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 20 cm3 | CC(CC)=O | C4H8O
product | 3,4-difluoro-4′-(2-methoxyethoxy)biphenyl | 0.15 g, 23% | FC=1C=C(C=CC1F)C1=CC=C(C=C1)OCCOC | C15H14F2O2
